US07319099B2
(b) 3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester hydrochloride
Prepared in analogy to example 4.4 (b) from 2,3,5,6-Tetrahydro-[1,2′]bipyrazinyl-4,5′-dicarboxylic acid 4-tert-butyl ester 5′-methyl ester and 1,4-dioxane saturated with gaseous HCl. MS (m/e): 223.1 (MH+, 100%)

reactant | 2,3,5,6-Tetrahydro-[1,2′]bipyrazinyl-4,5′-dicarboxylic acid 4-tert-butyl ester 5′-methyl ester | COC(=O)C=1N=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N4O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyrazinyl-5′-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1N=CC(=NC1)N1CCNCC1 | InChI=1S/C10H14N4O2.ClH/c1-16-10(15)8-6-13-9(7-12-8)14-4-2-11-3-5-14;/h6-7,11H,2-5H2,1H3;1H
